US05026848
5-[7-(fluorene-9-yloxy)-heptyl]-3-methylisoxazole (29)
The sodium salt of 9-hydroxyfluorene was made by reacting sodium metal in anhydrous benzene before the etherization with 7-(3-methylisoxazol-5-yl)-heptyl bromide in the same solvent.

reactant | sodium | [Na] | Na
reactant | 9-hydroxyfluorene | OC1C2=CC=CC=C2C=2C=CC=CC12 | C13H10O
reactant | 7-(3-methylisoxazol-5-yl)-heptyl bromide | CC1=NOC(=C1)CCCCCCCBr | C11H18BrNO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5-[7-(fluorene-9-yloxy)-heptyl]-3-methylisoxazole | C1=CC=CC=2C3=CC=CC=C3C(C12)OCCCCCCCC1=CC(=NO1)C | C24H27NO2
